US07423052B2
Description 75 (RS)-2-(2-Oxo-2-phenyl-ethoxycarbonylmethyl)piperidine-1-carboxylic acid benzyl ester
The title compound (4.0 g) was prepared from 2-bromoacetophenone (2.20 g) and 2-carboxymethyl-piperidine-1-carboxylic acid benzyl ester according to the method of description 36

reactant | 2-bromoacetophenone | 2.20 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | 2-carboxymethyl-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)CC(=O)O | C15H19NO4
product | (RS)-2-(2-Oxo-2-phenyl-ethoxycarbonylmethyl)piperidine-1-carboxylic acid benzyl ester | 4.0 g | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)CC(=O)OCC(C1=CC=CC=C1)=O | C23H25NO5
